US06900357B2
Synthesis of (2S, 3S)-3-hydroxy-2-methyl-3-phenyl-propionaldehyde (Table 1, entry 4):
A solution of freshly distilled propionaldehyde (72 μL, 1.0 mmol) in 500 μL dimethylformamide pre-cooled to 4° C. was added slowly over the course of 16 h to a stirring suspension of benzaldehyde (1.02 mL, 10 mmol), L-proline (11.5 mg, 0.10 mmol) and 4.5 mL dimethylformamide at 4° C. After 16 hours, the resulting solution was diluted with ethyl acetate and washed successively with water and brine. The combined aqueous layers were back-extracted with 3 portions of dichloromethane. The organic layers were combined, dried over anhydrous Na2SO4, and then concentrated. Flash chromatography (4:1 hexanes:ethyl acetate) afforded the title compound as a clear, colorless oil in 81% yield (132 mg, 0.81 mmol), 99% ee and 3:1 anti:syn. Analytical data for this compound are identical in every respect to that previously reported (Mahrwald, supra) with the exception of optical rotation which has not been reported. [α]D=+9.1 (c=1.0, CHCl3). The product ratios were determined by HPLC analysis of the corresponding alcohol (obtained by NaBH4 reduction) using a Chiracel AD and AD guard column (1.0% isopropanol/hexanes, 1 mL/min); (2S, 3S) anti isomer tr=147.5 min, (2R, 3R) anti isomer tr=161.1 min, (2R, 3S) and (2S, 3R) syn isomers tr=173.0, 200.0 min.

reactant | propionaldehyde | 1.0 mmol, 72 μL | C(CC)=O | C3H6O
reactant | benzaldehyde | 10 mmol, 1.02 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | L-proline | 0.10 mmol, 11.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
product | (2S, 3S)-3-hydroxy-2-methyl-3-phenyl-propionaldehyde | 81% yield | O[C@@H]([C@@H](C=O)C)C1=CC=CC=C1 | C10H12O2
